US20010056188A1
2) 3-(4-Chlorophenylamino)-2-methylsulfonyl-3-(1,2,2-trimethylpropylamino)-propenenitrile
3-(4-Chlorophenylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile (0.242 g, 0.8 mmol) was stirred in 1,2,2-trimethylpropylamine (1 ml) for 17 h at 75° C. under nitrogen. Work-up as described in EXAMPLE 17, 2) without chromatography gave 0.240 g (85%) of the title compound. Mp 160.5-161.5° C. 1H NMR (200 MHz, CDCl3): δ=0.87 (s, 9H), 0.97 (d, 3H), 3.1 (m, 4H), 7.07 (d, 1H), 7.49 (d, 2H); Analysis: calc. for C16H22CIN3O2S: C54.00%, H 6.23%, N 11.81%; Found: C54.26%, H 6.33%, N 11.76%.

reactant | 3-(4-Chlorophenylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile | 0.8 mmol, 0.242 g | ClC1=CC=C(C=C1)NC(=C(C#N)S(=O)(=O)C)SC | C11H11ClN2O2S2
reactant | 1,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 3-(4-Chlorophenylamino)-2-methylsulfonyl-3-(1,2,2-trimethylpropylamino)-propenenitrile | 0.240 g, 85% | ClC1=CC=C(C=C1)NC(=C(C#N)S(=O)(=O)C)NC(C(C)(C)C)C | C16H22ClN3O2S
